US06566373B2
a) trans-4-Azido-3-hydroxy tetrahydrofuran
3,4-Epoxytetrahydrofuran (9 g, 105 mmol) was added to a stirred solution of sodium azide (27 g, 415 mmol) and ammonium chloride (9 g, 159 mmol) in aqueous methanol (95%, 200 ml). The reaction was heated to 75° C. and stirred for 20 hours. The reaction was cooled, filtered and evaporated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate, dried and evaporated under reduced pressure to afford the title compound as a colourless oil, 10 g, 74% yield.

reactant | 3,4-Epoxytetrahydrofuran | 105 mmol, 9 g | O1C2COCC21 | C4H6O2
reactant | sodium azide | 415 mmol, 27 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 159 mmol, 9 g | [Cl-].[NH4+]
solvent | methanol | 200 ml | CO | CH4O
product | trans-4-Azido-3-hydroxy tetrahydrofuran | 74% yield | N(=[N+]=[N-])[C@H]1[C@@H](COC1)O | C4H7N3O2
